* NGSPICE file created from example_por.ext - technology: sky130A

.subckt sky130_fd_sc_hvl__buf_8 A VGND VNB VPB VPWR X
X0 X a_45_443# VGND VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X1 VGND a_45_443# X VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X2 X a_45_443# VPWR VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X3 a_45_443# A VGND VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X4 X a_45_443# VPWR VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X5 VPWR a_45_443# X VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X6 VGND A a_45_443# VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X7 X a_45_443# VGND VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X8 VPWR A a_45_443# VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X9 VPWR A a_45_443# VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X10 VPWR a_45_443# X VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X11 X a_45_443# VGND VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X12 VGND a_45_443# X VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X13 VPWR a_45_443# X VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X14 X a_45_443# VPWR VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X15 VGND A a_45_443# VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X16 VGND a_45_443# X VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X17 X a_45_443# VPWR VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X18 VGND a_45_443# X VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X19 X a_45_443# VGND VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X20 VPWR a_45_443# X VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X21 a_45_443# A VPWR VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
.ends

.subckt sky130_fd_pr__pfet_g5v0d10v5_ZEUEFZ VSUBS a_n465_n200# a_n247_n200# a_n29_n200#
+ a_843_n200# w_n1101_n497# a_n843_n297# a_625_n200# a_683_n297# a_n625_n297# a_407_n200#
+ a_465_n297# a_n407_n297# a_247_n297# a_n901_n200# a_189_n200# a_29_n297# a_n189_n297#
+ a_n683_n200#
X0 a_n247_n200# a_n407_n297# a_n465_n200# w_n1101_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X1 a_843_n200# a_683_n297# a_625_n200# w_n1101_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X2 a_407_n200# a_247_n297# a_189_n200# w_n1101_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X3 a_189_n200# a_29_n297# a_n29_n200# w_n1101_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X4 a_n465_n200# a_n625_n297# a_n683_n200# w_n1101_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X5 a_625_n200# a_465_n297# a_407_n200# w_n1101_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X6 a_n29_n200# a_n189_n297# a_n247_n200# w_n1101_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X7 a_n683_n200# a_n843_n297# a_n901_n200# w_n1101_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
.ends

.subckt sky130_fd_pr__nfet_g5v0d10v5_TGFUGS a_n80_n288# a_n574_n200# a_n356_n200#
+ a_n138_n200# a_n734_n288# a_574_n288# a_n516_n288# a_356_n288# a_80_n200# a_n298_n288#
+ a_138_n288# w_n962_n458# a_734_n200# a_516_n200# a_298_n200# a_n792_n200#
X0 a_n574_n200# a_n734_n288# a_n792_n200# w_n962_n458# sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X1 a_734_n200# a_574_n288# a_516_n200# w_n962_n458# sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X2 a_298_n200# a_138_n288# a_80_n200# w_n962_n458# sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X3 a_n138_n200# a_n298_n288# a_n356_n200# w_n962_n458# sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X4 a_n356_n200# a_n516_n288# a_n574_n200# w_n962_n458# sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X5 a_516_n200# a_356_n288# a_298_n200# w_n962_n458# sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X6 a_80_n200# a_n80_n288# a_n138_n200# w_n962_n458# sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
.ends

.subckt sky130_fd_pr__cap_mim_m3_1_LQJW4T VSUBS m3_n3136_n2900# c1_n3036_n2800#
X0 c1_n3036_n2800# m3_n3136_n2900# sky130_fd_pr__cap_mim_m3_1 l=2.8e+07u w=3e+07u
.ends

.subckt sky130_fd_pr__res_xhigh_po_0p69_PBQTMM a_4756_n2732# a_1282_2300# a_3212_n2732#
+ a_n4894_2300# a_n4508_2300# a_n3350_2300# a_510_n2732# a_896_2300# a_5142_n2732#
+ a_n1806_n2732# a_1668_n2732# a_n3736_n2732# a_3212_2300# a_3598_n2732# a_4756_2300#
+ a_896_n2732# a_2054_n2732# a_n5280_2300# a_n4122_n2732# a_n1806_2300# a_n2578_n2732#
+ a_5142_2300# a_n1034_n2732# a_n262_2300# a_n262_n2732# a_1668_2300# a_n3736_2300#
+ a_n2192_2300# a_3984_n2732# a_2440_2300# a_2440_n2732# a_3984_2300# a_4370_n2732#
+ a_2054_2300# a_3598_2300# a_n4508_n2732# a_n4122_2300# a_510_2300# a_n2964_n2732#
+ w_n5446_n2898# a_n4894_n2732# a_124_2300# a_n1420_n2732# a_124_n2732# a_1282_n2732#
+ a_4370_2300# a_n3350_n2732# a_n5280_n2732# a_n648_2300# a_n648_n2732# a_n2964_2300#
+ a_n1420_2300# a_n2578_2300# a_n1034_2300# a_2826_n2732# a_n2192_n2732# a_2826_2300#
X0 a_n4122_n2732# a_n4122_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X1 a_n3736_n2732# a_n3736_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X2 a_5142_n2732# a_5142_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X3 a_n4894_n2732# a_n4894_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X4 a_1282_n2732# a_1282_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X5 a_4756_n2732# a_4756_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X6 a_124_n2732# a_124_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X7 a_896_n2732# a_896_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X8 a_510_n2732# a_510_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X9 a_n648_n2732# a_n648_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X10 a_n5280_n2732# a_n5280_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X11 a_n4508_n2732# a_n4508_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X12 a_n1034_n2732# a_n1034_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X13 a_n2192_n2732# a_n2192_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X14 a_2054_n2732# a_2054_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X15 a_1668_n2732# a_1668_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X16 a_2440_n2732# a_2440_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X17 a_n1420_n2732# a_n1420_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X18 a_n2578_n2732# a_n2578_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X19 a_3598_n2732# a_3598_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X20 a_n1806_n2732# a_n1806_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X21 a_3212_n2732# a_3212_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X22 a_n2964_n2732# a_n2964_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X23 a_2826_n2732# a_2826_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X24 a_4370_n2732# a_4370_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X25 a_3984_n2732# a_3984_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X26 a_n262_n2732# a_n262_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
X27 a_n3350_n2732# a_n3350_2300# w_n5446_n2898# sky130_fd_pr__res_xhigh_po_0p69 l=2.3e+07u
.ends

.subckt sky130_fd_pr__pfet_g5v0d10v5_3YBPVB VSUBS a_n138_n200# w_n338_n497# a_80_n200#
+ a_n80_n297#
X0 a_80_n200# a_n80_n297# a_n138_n200# w_n338_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
.ends

.subckt sky130_fd_sc_hvl__schmittbuf_1 A VGND VNB VPB VPWR X
X0 X a_117_181# VGND VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X1 a_217_207# a_117_181# a_64_207# VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=420000u l=500000u
X2 VPWR A a_231_463# VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X3 VGND A a_217_207# VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=420000u l=500000u
X4 a_64_207# VPWR VPB sky130_fd_pr__res_generic_pd__hv w=290000u l=3.11e+06u
X5 X a_117_181# VPWR VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X6 a_231_463# A a_117_181# VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X7 a_231_463# a_117_181# a_78_463# VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X8 a_217_207# A a_117_181# VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=420000u l=500000u
X9 a_78_463# VGND VNB sky130_fd_pr__res_generic_nd__hv w=290000u l=1.355e+06u
.ends

.subckt sky130_fd_pr__pfet_g5v0d10v5_YUHPXE VSUBS a_n138_n200# w_n338_n497# a_80_n200#
+ a_n80_n297#
X0 a_80_n200# a_n80_n297# a_n138_n200# w_n338_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
.ends

.subckt sky130_fd_pr__nfet_g5v0d10v5_ZK8HQC a_n80_n288# a_n138_n200# a_80_n200# w_n308_n458#
X0 a_80_n200# a_n80_n288# a_n138_n200# w_n308_n458# sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
.ends

.subckt sky130_fd_pr__cap_mim_m3_2_L4HW4T VSUBS m4_n3179_n2900# c2_n3079_n2800#
X0 c2_n3079_n2800# m4_n3179_n2900# sky130_fd_pr__cap_mim_m3_2 l=2.8e+07u w=3e+07u
.ends

.subckt sky130_fd_pr__pfet_g5v0d10v5_YEUEBV VSUBS w_n992_n497# a_n574_n200# a_n356_n200#
+ a_n138_n200# a_80_n200# a_n80_n297# a_734_n200# a_n734_n297# a_516_n200# a_574_n297#
+ a_n516_n297# a_356_n297# a_298_n200# a_n298_n297# a_138_n297# a_n792_n200#
X0 a_80_n200# a_n80_n297# a_n138_n200# w_n992_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X1 a_n574_n200# a_n734_n297# a_n792_n200# w_n992_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X2 a_734_n200# a_574_n297# a_516_n200# w_n992_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X3 a_298_n200# a_138_n297# a_80_n200# w_n992_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X4 a_n138_n200# a_n298_n297# a_n356_n200# w_n992_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X5 a_n356_n200# a_n516_n297# a_n574_n200# w_n992_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X6 a_516_n200# a_356_n297# a_298_n200# w_n992_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
.ends

.subckt sky130_fd_pr__nfet_g5v0d10v5_8KW54N a_n247_n200# a_n29_n200# a_29_n288# a_n189_n288#
+ w_n417_n458# a_189_n200#
X0 a_189_n200# a_29_n288# a_n29_n200# w_n417_n458# sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
X1 a_n29_n200# a_n189_n288# a_n247_n200# w_n417_n458# sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
.ends

.subckt sky130_fd_pr__pfet_g5v0d10v5_YUHPBG VSUBS a_n138_n200# w_n338_n497# a_80_n200#
+ a_n80_n297#
X0 a_80_n200# a_n80_n297# a_n138_n200# w_n338_n497# sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=2e+06u l=800000u
.ends

.subckt sky130_fd_sc_hvl__inv_8 A VGND VNB VPB VPWR Y
X0 VGND A Y VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X1 Y A VGND VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X2 VGND A Y VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X3 Y A VPWR VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X4 VPWR A Y VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X5 Y A VGND VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X6 VGND A Y VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X7 Y A VGND VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X8 VPWR A Y VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X9 Y A VPWR VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X10 VPWR A Y VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X11 Y A VPWR VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X12 VGND A Y VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X13 Y A VGND VNB sky130_fd_pr__nfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=750000u l=500000u
X14 Y A VPWR VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
X15 VPWR A Y VPB sky130_fd_pr__pfet_g5v0d10v5 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=500000u
.ends

.subckt example_por vdd3v3 vdd1v8 vss porb_h por_l porb_l
Xsky130_fd_sc_hvl__buf_8_1 sky130_fd_sc_hvl__inv_8_0/A vss vss vdd1v8 vdd1v8 porb_l
+ sky130_fd_sc_hvl__buf_8
Xsky130_fd_pr__pfet_g5v0d10v5_ZEUEFZ_0 vss vdd3v3 m1_502_7653# vdd3v3 vdd3v3 vdd3v3
+ m1_502_7653# m1_502_7653# m1_502_7653# m1_502_7653# vdd3v3 m1_502_7653# m1_502_7653#
+ m1_502_7653# vdd3v3 m1_502_7653# m1_502_7653# m1_502_7653# m1_502_7653# sky130_fd_pr__pfet_g5v0d10v5_ZEUEFZ
Xsky130_fd_pr__nfet_g5v0d10v5_TGFUGS_0 m1_721_6815# vss m1_721_6815# vss m1_721_6815#
+ m1_721_6815# m1_721_6815# m1_721_6815# m1_721_6815# m1_721_6815# m1_721_6815# vss
+ vss m1_721_6815# vss m1_721_6815# sky130_fd_pr__nfet_g5v0d10v5_TGFUGS
Xsky130_fd_pr__cap_mim_m3_1_LQJW4T_0 vss vss sky130_fd_sc_hvl__schmittbuf_1_0/A sky130_fd_pr__cap_mim_m3_1_LQJW4T
Xsky130_fd_pr__res_xhigh_po_0p69_PBQTMM_0 li_9883_565# li_6410_5813# li_8339_565#
+ vss li_1006_5813# li_1778_5813# li_6023_565# li_6410_5813# vss li_3707_565# li_6795_565#
+ li_1391_565# li_8726_5813# li_9111_565# vdd3v3 li_6023_565# li_7567_565# vss li_1391_565#
+ li_3322_5813# li_2935_565# vss li_4479_565# li_4866_5813# li_5251_565# li_7182_5813#
+ li_1778_5813# li_3322_5813# li_9111_565# li_7954_5813# li_7567_565# li_9498_5813#
+ li_9883_565# li_7182_5813# li_8726_5813# li_619_565# li_1006_5813# li_5638_5813#
+ li_2163_565# vss li_619_565# li_5638_5813# li_3707_565# li_5251_565# li_6795_565#
+ li_9498_5813# li_2163_565# vss li_4866_5813# li_4479_565# li_2550_5813# li_4094_5813#
+ li_2550_5813# li_4094_5813# li_8339_565# li_2935_565# li_7954_5813# sky130_fd_pr__res_xhigh_po_0p69_PBQTMM
Xsky130_fd_pr__pfet_g5v0d10v5_3YBPVB_0 vss m1_2993_7658# vdd3v3 m1_721_6815# m1_185_6573#
+ sky130_fd_pr__pfet_g5v0d10v5_3YBPVB
Xsky130_fd_sc_hvl__schmittbuf_1_0 sky130_fd_sc_hvl__schmittbuf_1_0/A vss vss vdd3v3
+ vdd3v3 sky130_fd_sc_hvl__inv_8_0/A sky130_fd_sc_hvl__schmittbuf_1
Xsky130_fd_pr__pfet_g5v0d10v5_3YBPVB_1 vss m1_2756_6794# vdd3v3 m1_4283_8081# m1_2756_6794#
+ sky130_fd_pr__pfet_g5v0d10v5_3YBPVB
Xsky130_fd_pr__pfet_g5v0d10v5_3YBPVB_2 vss m1_6249_7690# vdd3v3 sky130_fd_sc_hvl__schmittbuf_1_0/A
+ m1_2756_6794# sky130_fd_pr__pfet_g5v0d10v5_3YBPVB
Xsky130_fd_pr__pfet_g5v0d10v5_3YBPVB_3 vss m1_185_6573# vdd3v3 m1_502_7653# m1_185_6573#
+ sky130_fd_pr__pfet_g5v0d10v5_3YBPVB
Xsky130_fd_pr__pfet_g5v0d10v5_YUHPXE_0 vss vdd3v3 vdd3v3 m1_6249_7690# m1_4283_8081#
+ sky130_fd_pr__pfet_g5v0d10v5_YUHPXE
Xsky130_fd_pr__nfet_g5v0d10v5_ZK8HQC_1 li_2550_5813# vss m1_185_6573# vss sky130_fd_pr__nfet_g5v0d10v5_ZK8HQC
Xsky130_fd_pr__cap_mim_m3_2_L4HW4T_0 vss sky130_fd_sc_hvl__schmittbuf_1_0/A vss sky130_fd_pr__cap_mim_m3_2_L4HW4T
Xsky130_fd_pr__pfet_g5v0d10v5_YEUEBV_0 vss vdd3v3 m1_4283_8081# vdd3v3 m1_4283_8081#
+ vdd3v3 m1_4283_8081# m1_4283_8081# m1_4283_8081# vdd3v3 m1_4283_8081# m1_4283_8081#
+ m1_4283_8081# m1_4283_8081# m1_4283_8081# m1_4283_8081# vdd3v3 sky130_fd_pr__pfet_g5v0d10v5_YEUEBV
Xsky130_fd_pr__nfet_g5v0d10v5_8KW54N_0 vss m1_2756_6794# m1_721_6815# m1_721_6815#
+ vss vss sky130_fd_pr__nfet_g5v0d10v5_8KW54N
Xsky130_fd_pr__pfet_g5v0d10v5_YUHPBG_0 vss vdd3v3 vdd3v3 m1_2993_7658# m1_502_7653#
+ sky130_fd_pr__pfet_g5v0d10v5_YUHPBG
Xsky130_fd_sc_hvl__inv_8_0 sky130_fd_sc_hvl__inv_8_0/A vss vss vdd1v8 vdd1v8 por_l
+ sky130_fd_sc_hvl__inv_8
Xsky130_fd_sc_hvl__buf_8_0 sky130_fd_sc_hvl__inv_8_0/A vss vss vdd3v3 vdd3v3 porb_h
+ sky130_fd_sc_hvl__buf_8
.ends

