* NGSPICE file created from inverter.ext - technology: sky130A

.subckt sky130_fd_pr__nfet_01v8_BZBQCZ a_n173_n150# a_n78_n150# a_63_n238# a_n129_n238#
+ w_n311_n360# a_114_n150# a_18_n150# a_n33_172#
X0 a_114_n150# a_63_n238# a_18_n150# w_n311_n360# sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=180000u
X1 a_n78_n150# a_n129_n238# a_n173_n150# w_n311_n360# sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=180000u
X2 a_18_n150# a_n33_172# a_n78_n150# w_n311_n360# sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=180000u
C0 a_n129_n238# a_n173_n150# 0.00fF
C1 a_n33_172# a_63_n238# 0.02fF
C2 a_18_n150# a_n78_n150# 0.17fF
C3 a_n173_n150# a_114_n150# 0.04fF
C4 a_n78_n150# a_n33_172# 0.00fF
C5 a_18_n150# a_n33_172# 0.01fF
C6 a_n173_n150# a_n78_n150# 0.17fF
C7 a_n129_n238# a_63_n238# 0.04fF
C8 a_n173_n150# a_18_n150# 0.11fF
C9 a_63_n238# a_114_n150# 0.01fF
C10 a_n129_n238# a_n78_n150# 0.01fF
C11 a_n78_n150# a_114_n150# 0.11fF
C12 a_18_n150# a_114_n150# 0.17fF
C13 a_18_n150# a_63_n238# 0.00fF
C14 a_n129_n238# a_n33_172# 0.02fF
C15 a_114_n150# w_n311_n360# 0.19fF
C16 a_18_n150# w_n311_n360# 0.13fF
C17 a_n78_n150# w_n311_n360# 0.13fF
C18 a_n173_n150# w_n311_n360# 0.19fF
C19 a_63_n238# w_n311_n360# 0.21fF
C20 a_n129_n238# w_n311_n360# 0.21fF
C21 a_n33_172# w_n311_n360# 0.16fF
.ends

.subckt sky130_fd_pr__pfet_01v8_UT24HJ VSUBS a_n173_n150# a_n78_n150# a_n33_181# w_n311_n369#
+ a_63_n247# a_n129_n247# a_114_n150# a_18_n150#
X0 a_114_n150# a_63_n247# a_18_n150# w_n311_n369# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=180000u
X1 a_n78_n150# a_n129_n247# a_n173_n150# w_n311_n369# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=180000u
X2 a_18_n150# a_n33_181# a_n78_n150# w_n311_n369# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=180000u
C0 w_n311_n369# a_n129_n247# 0.05fF
C1 a_114_n150# a_n78_n150# 0.11fF
C2 a_n129_n247# a_n78_n150# 0.00fF
C3 a_n129_n247# a_n33_181# 0.02fF
C4 a_18_n150# a_114_n150# 0.17fF
C5 a_114_n150# a_63_n247# 0.00fF
C6 a_114_n150# a_n173_n150# 0.04fF
C7 a_n129_n247# a_63_n247# 0.04fF
C8 w_n311_n369# a_n78_n150# 0.12fF
C9 w_n311_n369# a_n33_181# 0.09fF
C10 a_n129_n247# a_n173_n150# 0.00fF
C11 a_n33_181# a_n78_n150# 0.00fF
C12 a_18_n150# w_n311_n369# 0.12fF
C13 w_n311_n369# a_63_n247# 0.05fF
C14 a_18_n150# a_n78_n150# 0.17fF
C15 a_18_n150# a_n33_181# 0.00fF
C16 w_n311_n369# a_n173_n150# 0.18fF
C17 a_63_n247# a_n33_181# 0.02fF
C18 a_n173_n150# a_n78_n150# 0.17fF
C19 w_n311_n369# a_114_n150# 0.18fF
C20 a_18_n150# a_63_n247# 0.00fF
C21 a_18_n150# a_n173_n150# 0.11fF
C22 a_114_n150# VSUBS 0.01fF
C23 a_18_n150# VSUBS 0.01fF
C24 a_n78_n150# VSUBS 0.01fF
C25 a_n173_n150# VSUBS 0.01fF
C26 a_63_n247# VSUBS 0.13fF
C27 a_n129_n247# VSUBS 0.13fF
C28 a_n33_181# VSUBS 0.13fF
C29 w_n311_n369# VSUBS 2.82fF
.ends

.subckt inverter vi vo vdd vss
XXM1 vo vdd vi vi vdd vdd vo vi sky130_fd_pr__nfet_01v8_BZBQCZ
XXM2 vdd vss vo vi vss vi vi vo vss sky130_fd_pr__pfet_01v8_UT24HJ
C0 vi vo 0.93fF
C1 m1_404_1750# vo 0.02fF
C2 vi vss 0.89fF
C3 m1_404_1750# vss 0.01fF
C4 vss vo 0.59fF
C5 m1_404_1750# vdd -0.01fF $ **FLOATING
C6 vss vdd 3.85fF
C7 vo vdd 1.28fF
C8 vi vdd 3.65fF
.ends

